US08314097B2
The crude (2-chloro-4-cyanophenyl)-[5-(2-methanesulfonyloxyethyl)imidazol-1-yl]-acetic acid methyl ester (2.56 g, 6.45 mmol) is dissolved in dry DMF (50 mL) and to it is added K2CO3 (2.67 g, 19.4 mmol), NaI (2.9 g, 19.4 mmol) and Et3N (2.7 mL, 19.4 mmol). The reaction is stirred at 80° C. for 2 h before being concentrated to dryness. The residue is then diluted with EtOAc and washed with water. The organic layer is dried (Na2SO4) and evaporated to give a crude residue that is purified via flash column chromatography (Acetone/CH2Cl2 1:3) to give 5-(2-chloro-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid methyl ester as an oil. MS (ESI) m/z 302.2, 304.2 (M+H). 1H NMR (400 MHz, CDCl3) δ ppm 2.64-2.76 (m, 2 H), 2.97-3.06 (m, 1 H), 3.84 (s, 3 H), 3.86-3.93 (m, 1 H), 6.56 (d, J=8.1 Hz, 1 H), 6.87 (s, 1 H), 7.50 (obs d, J=8.1 Hz, 1 H), 7.52 (s, 1 H), 7.73 (s, 1 H).

reactant | (2-chloro-4-cyanophenyl)-[5-(2-methanesulfonyloxyethyl)imidazol-1-yl]-acetic acid methyl ester | 6.45 mmol, 2.56 g | COC(C(N1C=NC=C1CCOS(=O)(=O)C)C1=C(C=C(C=C1)C#N)Cl)=O | C16H16ClN3O5S
reactant | K2CO3 | 19.4 mmol, 2.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 19.4 mmol, 2.9 g | [Na+].[I-]
reactant | Et3N | 19.4 mmol, 2.7 mL | CCN(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 5-(2-chloro-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid methyl ester | COC(=O)C1(CCC=2N1C=NC2)C2=C(C=C(C=C2)C#N)Cl | C15H12ClN3O2
